US08445509B2
Production of N-[4-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)-2-fluorophenyl]-1-(2,4-difluorophenyl)-6-methyl-2-oxo-1,2-dihydropyridine-3-carboxamide
To a solution of N-[6-(4-amino-2-fluorophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide (200 mg, 0.613 mmol) and 1-(2,4-difluorophenyl)-6-methyl-2-oxo-1,2-dihydropyridine-3-carboxylic acid (244 mg, 0.919 mmol) in N,N-dimethylacetamide (2.0 mL) were added HATU (350 mg, 0.919 mmol) and N,N-diisopropylethylamine (160 μL, 0.919 mmol), and the mixture was stirred at room temperature for 3 hr. Saturated aqueous sodium hydrogen carbonate solution was added to the reaction mixture, and the mixture was extracted with ethyl acetate/tetrahydrofuran, washed with saturated brine, dried over anhydrous magnesium sulfate and filtered. The solvent was evaporated under reduced pressure. The obtained residue was washed with ethyl acetate and collected by filtration to give the title compound (284 mg, 81%) as a white solid.

reactant | N-[6-(4-amino-2-fluorophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide | 0.613 mmol, 200 mg | NC1=CC(=C(OC=2C=CC=3N(C2)C=C(N3)NC(=O)C3CC3)C=C1)F | C17H15FN4O2
reactant | 1-(2,4-difluorophenyl)-6-methyl-2-oxo-1,2-dihydropyridine-3-carboxylic acid | 0.919 mmol, 244 mg | FC1=C(C=CC(=C1)F)N1C(C(=CC=C1C)C(=O)O)=O | C13H9F2NO3
reactant | HATU | 0.919 mmol, 350 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 0.919 mmol, 160 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylacetamide | 2.0 mL | CN(C(C)=O)C | C4H9NO
product | N-[4-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)-2-fluorophenyl]-1-(2,4-difluorophenyl)-6-methyl-2-oxo-1,2-dihydropyridine-3-carboxamide | 284 mg, 81% | C1(CC1)C(=O)NC=1N=C2N(C=C(C=C2)OC2=CC(=C(C=C2)NC(=O)C=2C(N(C(=CC2)C)C2=C(C=C(C=C2)F)F)=O)F)C1 | C30H22F3N5O4
